US07338959B2
N2-(4-Methanesulfonylmethyl-phenyl)-N4-methyl-N4-(1-methyl-2-methylsulfanyl-1H-benzoimidazol-5-yl)-pyrimidine-2,4-diamine
A mixture of (2-Chloro-pyrimidin-4-yl)-methyl-(1-methyl-2-methylsulfanyl-1H-benzoimidazol-5-yl)-amine (3.19 g, 10 mmol), 4-Methanesulfonylmethyl-phenylamine (1.85 g, 10 mmol) and (833 ul, 12N, 10 mmol) was refluxed in isopropanol (100 ml) overnight. The mixture was then concentrated to dryness and the residual was taken into MeOH and stirred with NaHCO3 (3 g) at room temperature for 20 min. and filtered, the filtrate was concentrated and the residual was purified by silica flash gave 3.35 g as a pale yellow solid: LC/MS(m/e) 469.2 [M+H]+, Rt at 1.37 min.

reactant | (2-Chloro-pyrimidin-4-yl)-methyl-(1-methyl-2-methylsulfanyl-1H-benzoimidazol-5-yl)-amine | 10 mmol, 3.19 g | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)SC)C)C=C1)C | C14H14ClN5S
reactant | 4-Methanesulfonylmethyl-phenylamine | 10 mmol, 1.85 g | CS(=O)(=O)CC1=CC=C(C=C1)N | C8H11NO2S
solvent | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | N2-(4-Methanesulfonylmethyl-phenyl)-N4-methyl-N4-(1-methyl-2-methylsulfanyl-1H-benzoimidazol-5-yl)-pyrimidine-2,4-diamine | CS(=O)(=O)CC1=CC=C(C=C1)NC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)SC)C)C=C1)C | C22H24N6O2S2
